US08871790B2
Compound 26.1. tert-Butyl 4-(5-bromopyridin-2-yl)-4-hydroxypiperidine-1-carboxylate
To a stiffed solution of 2,5-dibromopyridine (10 g, 42.19 mmol, 1.00 equiv) in toluene (1000 mL) under nitrogen at −78° C. was added dropwise n-BuLi (18 mL, 2.5 M in toluene). After 1 h at −78° C., a solution of tert-butyl 4-oxopiperidine-1-carboxylate (10 g, 50.25 mmol, 1.19 equiv) in toluene (200 mL) was added dropwise while stirring. After an additional 2 h of stirring at −78° C., the reaction was then carefully quenched by the addition of 300 mL of water. The resulting mixture was extracted with 3×500 mL of ethyl acetate. The combined organic layers were washed with 1×300 mL of brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified using silica gel column chromatography with ethyl acetate/petroleum ether (1:100-1:5) to yield 6.5 g (42%) of the title compound as a yellow oil.

reactant | 2,5-dibromopyridine | 42.19 mmol, 10 g, 1.00 equiv | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-BuLi | 2.5 M, 18 mL | [Li]CCCC
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 50.25 mmol, 10 g, 1.19 equiv | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-(5-bromopyridin-2-yl)-4-hydroxypiperidine-1-carboxylate | 6.5 g, 42% | BrC=1C=CC(=NC1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C15H21BrN2O3
